Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
cough, pancreatic mass
 
Major Surgical or Invasive Procedure:
___ Pancreatic endoscopic biopsy

 
History of Present Illness:
___ w/no significant ___ transferred from ___ for
evaluation of fever and a new pancreatic mass found on CT scan. 

Patient reports being to her PCP 5 times in the last 2 months 
for
congoing cough and then more recently fever and night-sweats. 
She
has had no significant weight loss. As symptoms were not
resolving, she went to ___ where a CT scan
identified a new large pancreatic mass and she was transferred 
to
___.

In the ED, initial VS were: 98.2 107 116/67 16 99% RA 
Labs showed: WBC 12.4, Hb 8.7, Cr 0.5, INR 1.6
Received: lorazepam 1mg IV
Transfer VS were: 98.9 109 109/70 16 100% RA

On arrival to the floor, patient reports feeling well currently.
Her biggest complaint over the last few weeks has been sever
cough. This has been so severe it has caused her to vomit. Non
productive however. No chest pain or difficulty breathing. She
reports eating and drinking well. She was recently trated with a
10day course of levofloxacin which she just finished for 
presumed
URI. She denies any abdominal or back pain. 

REVIEW OF SYSTEMS:  
(+)PER HPI 
 
Past Medical History:
Depression / Anxiety
 
Social History:
___
Family History:
Mother - ___ and breast cancer
2 children healthy and well
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS:  98.5 112/68 95 18 97 Ra 
GENERAL: Adult female in NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM
NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no excoriations or lesions, no
rashes  

DISCHARGE PHYSICAL EXAM:  
VS:  98.7 104/67 109 18 96 Ra 
GENERAL: Adult female in NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM
NECK: supple, no LAD, no JVD, no lymphadenopathy anterior, 
cervical, axillary  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no excoriations or lesions, no
rashes  
 
Pertinent Results:
ADMISSION LABS:
==============

___ 09:51PM BLOOD WBC-12.4* RBC-3.54* Hgb-8.7* Hct-29.3* 
MCV-83 MCH-24.6* MCHC-29.7* RDW-15.2 RDWSD-46.2 Plt ___
___ 09:51PM BLOOD Neuts-68.3 Lymphs-11.7* Monos-11.3 
Eos-7.4* Baso-0.7 Im ___ AbsNeut-8.45* AbsLymp-1.44 
AbsMono-1.40* AbsEos-0.91* AbsBaso-0.09*
___ 09:51PM BLOOD ___ PTT-30.6 ___
___ 09:51PM BLOOD Glucose-80 UreaN-7 Creat-0.5 Na-140 K-3.9 
Cl-101 HCO3-23 AnGap-16
___ 09:51PM BLOOD ALT-21 AST-11 AlkPhos-132* TotBili-0.2

DISCHARGE LABS:
==============

___ 04:25AM BLOOD WBC-10.4* RBC-3.46* Hgb-8.6* Hct-28.8* 
MCV-83 MCH-24.9* MCHC-29.9* RDW-15.5 RDWSD-47.1* Plt ___
___ 04:25AM BLOOD ___ PTT-29.4 ___
___ 04:25AM BLOOD Glucose-95 UreaN-10 Creat-0.6 Na-142 
K-4.4 Cl-100 HCO3-29 AnGap-13
___ 04:12AM BLOOD ALT-15 AST-9 LD(LDH)-92* AlkPhos-124* 
TotBili-0.2
___ 04:25AM BLOOD Calcium-8.7 Phos-4.1 Mg-2.0 UricAcd-3.3
___ 05:21AM BLOOD calTIBC-114* Ferritn-857* TRF-88*
___ 04:25AM BLOOD Hapto-527*

MICROBIOLOGY:
============
___ urine culture - negative
___ blood culture - pending

RELEVANT IMAGING:
===============
Final Report
EXAMINATION:  CTA ABD AND PELVIS
 
INDICATION:  ___ year old woman with pancreatic mass seen on CTA 
chest// Better
eval mass and remainder of abdomen for possible mets
 
TECHNIQUE:  Abdomen and pelvis CTA: Non-contrast and multiphasic 
post-contrast
images were acquired through the abdomen and pelvis.
Oral contrast was not administered.
MIP reconstructions were performed on independent workstation 
and reviewed on
PACS.
 
DOSE:  Acquisition sequence:
   1) Spiral Acquisition 7.4 s, 28.6 cm; CTDIvol = 7.9 mGy 
(Body) DLP = 214.0
mGy-cm.
   2) Spiral Acquisition 12.8 s, 49.3 cm; CTDIvol = 12.0 mGy 
(Body) DLP =
572.6 mGy-cm.
 Total DLP (Body) = 800 mGy-cm.
 
COMPARISON:  None.
 
FINDINGS:
 
 
LOWER CHEST: Minimal atelectasis is noted in the lung bases.  
There is a small
left pleural effusion
 
ABDOMEN:
 
HEPATOBILIARY: The liver demonstrates homogenous attenuation 
throughout. There
is no evidence of focal lesions.  There are however subcapsular 
soft tissue
implants along the right hepatic lobe.  There is no evidence of 
intrahepatic
or extrahepatic biliary dilatation.  The gallbladder is within 
normal limits,
without stones or gallbladder wall thickening.
 
PANCREAS: There is an approximately 5.7 x 10 x 10 cm (AP by T by 
cc)
infiltrative, heterogenous appearing mass lesion involving the 
pancreatic body
and tail, with central hypoattenuation/necrosis.  The lesion 
encases the
splenic artery and vein.  The common hepatic artery and GDA 
appear separate
from the lesion.  The main portal vein and SMV are also 
uninvolved, however
there are prominent venous collaterals seen in the anterior 
abdomen, which are
likely related to splenic vein narrowing from the pancreatic 
mass.  The
pancreatic duct is not dilated.
 
SPLEEN: There is loss of intervening fat plane between the 
pancreatic mass and
the medial margin of the spleen, with suspected direct invasion 
of the mass at
the cranial pole of the spleen (series 4, image 26).  There are 
multiple
subcapsular soft tissue implants along the spleen.
 
ADRENALS: The right and left adrenal glands are normal in size 
and shape.
 
URINARY: The kidneys are of normal and symmetric size with 
normal nephrogram.
There is no evidence of stones, focal renal lesions, or 
hydronephrosis. There
are no urothelial lesions in the kidneys or ureters. There is no 
perinephric
abnormality.
 
GASTROINTESTINAL: Small bowel loops demonstrate normal caliber, 
wall thickness
and enhancement throughout. Colon and rectum are within normal 
limits. 
Appendix contains air, has normal caliber without evidence of 
fat stranding. 
There is no evidence of mesenteric lymphadenopathy.
 
RETROPERITONEUM: There is no evidence of retroperitoneal 
lymphadenopathy.
 
PELVIS: The urinary bladder and distal ureters are unremarkable. 
 There is no
evidence of pelvic or inguinal lymphadenopathy.  There is no 
free fluid in the
pelvis.
 
REPRODUCTIVE ORGANS: The visualized reproductive organs are 
unremarkable.  An
IUD is present in the uterus.
 
BONES: There is no evidence of worrisome osseous lesions or 
acute fracture.
 
SOFT TISSUES: The abdominal and pelvic wall is within normal 
limits.
 
IMPRESSION:
 
 
1. Large infiltrative mass involving the pancreatic body and 
tail with central
necrosis.  There is contiguous extension of the mass along the 
upper pole of
the spleen, with peritoneal subcapsular implants along the liver 
and spleen. 
Differential considerations in this young patient include a SPEN 
(solid pseudo
papillary tumor) which has undergone malignant degeneration or a
neuroendocrine tumor.  Lymphoma is less likely, given the lack 
of
lymphadenopathy.
 
EUS ___
Other
findings:EUS was performed using a linear echoendoscope at 7.5 
MHz frequency: The head and uncinate pancreas were imaged from 
the duodenal bulb and the second / third duodenum. The body and 
tail [partially] were imaged from the gastric body and fundus. : 
 Mass: A 4 cm X 5 cm well-defined mass was noted in the body of 
the pancreas. The mass was hypoechoic and heterogenous in 
echotexture. The borders of the mass were well defined. The mass 
appeared to invade the spleen. FN core biopsy was performed. 
Color doppler was used to determine an avascular path for needle 
aspiration. A 22-gauge core biopsy needle with a stylet was used 
to perform aspiration. Four needle passes were made into the 
mass. Aspirate was sent for histology.  (Biopsies were performed 
for histology at the pancreas mass.) Vessels [Venous 
structures]: The mass did not invade the portal vein. Vessels 
[Arterial]: The celiac artery take-off from the Aorta was 
imaged. This was not invaded by the mass. The superior 
mesenteric artery take-off from the Aorta was imaged. This was 
not invaded by the mass. The superior mesenteric artery was 
partially imaged from the second/third part of the duodenum. The 
mass did not appear to invade the visualized superior mesenteric 
artery.  
Impression:EUS was performed using a linear echoendoscope at 
___ MHz frequency: The head and uncinate pancreas were imaged 
from the duodenal bulb and the second / third duodenum. The body 
and tail [partially] were imaged from the gastric body and 
fundus. :
Mass: A 4 cm X 5 cm well-defined mass was noted in the body of 
the pancreas. The mass was hypoechoic and heterogenous in 
echotexture. The borders of the mass were well defined. The mass 
appeared to invade the spleen. FN core biopsy was performed. 
Color doppler was used to determine an avascular path for needle 
aspiration. A 22-gauge core biopsy needle with a stylet was used 
to perform aspiration. Four needle passes were made into the 
mass. Aspirate was sent for histology. (biopsy)
Vessels [Venous structures]: The mass did not invade the portal 
vein. Vessels [Arterial]: The celiac artery take-off from the 
Aorta was imaged. This was not invaded by the mass. The superior 
mesenteric artery take-off from the Aorta was imaged. This was 
not invaded by the mass. The superior mesenteric artery was 
partially imaged from the second/third part of the duodenum. The 
mass did not appear to invade the visualized superior mesenteric 
artery.
Otherwise normal upper eus to third part of the duodenum
 
Brief Hospital Course:
___ w/no significant past medical history transferred from ___ 
___ for evaluation of fever and a new pancreatic mass 
found on CT scan. 

#Pancreatic Mass: Patient with large 5.7x10x10 cm infiltrative 
heterogenous mass in the pancreatic body and tail as read on CT 
abn/pelvis. The patient currently has a cough likely secondary 
to the mass irritating the diaphragm. Chlorpromazine was 
attempted, but it only made the patient sleepy and did not help 
the cough. The patient underwent a biopsy with the ERCP team. 
Initial pathology demonstrated an undifferentiated tumor, but no 
specific tumor type was available by time of discharge. The 
patient's case was discussed at tumor board and the patient was 
set up with an appointment to see Dr. ___ in pancreatic 
oncology on ___. 

#Cough: Patient was initially evaluated at ___ 
for a cough. A CT chest was completed and showed no 
intrathroacic findings. She was symptomatically treated with 
Chlorpromazine during her stay, but it only made her tired and 
did not help the cough so it was discontinued prior to 
discharge. 

TRANSITIONAL ISSUES:
====================
- Follow up with Dr. ___ on ___ at 1 pm
- For fever, chills, nausea, vomiting, expanding abdomen, 
inability to pass stool, skin color changes (yellowing) return 
to the hospital ___ if stable or local hospital for transfer 
to ___ if unwell). 
- Final pathology read pending. 

Code Status: Full Code
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Citalopram 40 mg PO DAILY 
2. ALPRAZolam 0.5 mg PO TID:PRN anxiety 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  Ondansetron 8 mg PO Q8H:PRN nausea 
RX *ondansetron 8 mg 1 tablet(s) by mouth every 8 hours as 
needed for nausea Disp #*20 Tablet Refills:*0 
3.  TraZODone 50 mg PO QHS:PRN insomnia 
RX *trazodone 50 mg 1 tablet(s) by mouth every night as needed 
for insomnia Disp #*30 Tablet Refills:*0 
4.  ALPRAZolam 0.5 mg PO TID:PRN anxiety 
as needed   
5.  Citalopram 40 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
- Pancreatic carcinoma

SECONDARY DIAGNOSIS:
- Cough

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___. 

Why were you admitted to the hospital? 
You were found to have a large pancreatic mass

What did we do for you in the hospital?
- We tried to treat your symptoms of cough and insomnia
- We took a biopsy of the mass and sent it to pathology, the 
final read is still pending. As discussed, the final read of the 
biopsy will determine what kind of treatment you will need and 
how soon. Dr. ___ follow up with you once you are 
discharged.  

What will you do when you go home?
- Follow up with Dr. ___ Dr. ___
- ___ you have questions between now and ___, you can contact:
  Dr. ___
  ___
- Please return to the hospital if you have any of the following 
problems: 
* fever, chills, nausea, vomiting, expanding abdomen, inability 
to pass stool, skin color changes (yellowing). 

NEW MEDICATIONS:
Ondansetron 8 mg every 8 hours as needed for nausea
Trazodone 50 mg nightly as needed for insomnia

We wish you the best,

~ Your ___ team
 
Followup Instructions:
___